US05134111
(d) Preparation of 1-(t-butyldimethylsily)oxymethyl-4-methoxymethoxy-5-methylnaphthalene
13.7 g of t-butylchlorodimethylsilane was added to an N,N-dimethylaminopyridine (100 ml) solution of 14 g of 1-hydroxymethyl-4-methoxymethoxy-5-methylnaphthalene, 6.64 g of imidazole, and 0.4 g of 4-dimethylaminopyridine and agitated at room temperature overnight. Water was added to the reaction solution, followed by extraction with ethyl acetate. Thereafter, the resultant organic phase was washed with water and then with a saturated saline solution. After drying with anhydrous magnesium sulfate, the solvent was distilled off and the residue was purified by silica gel column chromatography (5% ethyl acetate/hexane) to obtain 19 g of the captioned compound as a light brown oily substance.

reactant | t-butylchlorodimethylsilane | 13.7 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | 1-hydroxymethyl-4-methoxymethoxy-5-methylnaphthalene | 14 g | OCC1=CC=C(C2=C(C=CC=C12)C)OCOC | C14H16O3
reactant | imidazole | 6.64 g | N1C=NC=C1 | C3H4N2
catalyst | 4-dimethylaminopyridine | 0.4 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Water | O | H2O
product | 1-(t-butyldimethylsily)oxymethyl-4-methoxymethoxy-5-methylnaphthalene | 19 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C2=C(C=CC=C12)C)OCOC | C20H30O3Si
